US05061717
N-Benzyl-N-methyl-4-[(thiazolidine-2,4-dion-5-yl)methyl]benzenesulfonamide
2,4-Thiazolidinedione (11 mmol, 1.3 g) was dissolved in tetrahydrofuran (50 ml) and cooled to -78° C. N-Butyllithium (22 mmol, 13.8 ml of 1.6M in hexane) was added over 15 minutes. The cooling bath was removed and the reaction mixture was stirred for 20 minutes. N-Benzyl-N-methyl-4-(bromomethyl)benzenesulfonamide (10 mmol, 3.5 g) dissolved in tetrahydrofuran (50 ml) was added over 20 minutes. The reaction mixture was heated to reflux for 15 hours, cooled and diluted with water (50 ml) and 6N HCl (10 ml). The mixture was extracted with ethyl acetate (75 ml) and the organic layer was dried (Na2SO4) and removed in vacuo. The residue was purified on silica gel using 1:1 hexane:ethyl acetate to afford 3.0 g of title product as a gum; MS 390 (m+), 269, 205.

reactant | 2,4-Thiazolidinedione | 11 mmol, 1.3 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | N-Butyllithium | 22 mmol, 1.6M, 13.8 ml | [Li+].CCC[CH2-]
reactant | N-Benzyl-N-methyl-4-(bromomethyl)benzenesulfonamide | 10 mmol, 3.5 g | C(C1=CC=CC=C1)N(S(=O)(=O)C1=CC=C(C=C1)CBr)C | C15H16BrNO2S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
solvent | HCl | 6N, 10 ml | Cl | ClH
product | N-Benzyl-N-methyl-4-[(thiazolidine-2,4-dion-5-yl)methyl]benzenesulfonamide | 3.0 g | C(C1=CC=CC=C1)N(S(=O)(=O)C1=CC=C(C=C1)CC1C(NC(S1)=O)=O)C | C18H18N2O4S2
